US07351857B2
To 2-(5-methoxyindan-2-yl)isoindole-1,3-dione (19.7 g; 67 mmol) dissolved in anhydrous CH2Cl2 (350 mL) and cooled to −60° C., is added a 1.0 M solution of boron tribromide-CH2Cl2 (340 mL), dropwise at a rate to maintain the internal temperature between −50 and −60° C. The reaction mixture is allowed to warm to RT and stirred for an additional 5 h. The reaction is cooled to 0° C., quenched with saturated NaHCO3 (500 mL) and stirred for an additional 0.5 h at RT. The precipitate is filtered, washed with H2O, suspended in ether, filtered and dried under vacuo to afford 14.8 g (79%) of 2-(5-hydroxyindan-2-yl)isoindole-1,3-dione as a beige solid.

reactant | 2-(5-methoxyindan-2-yl)isoindole-1,3-dione | 67 mmol, 19.7 g | COC=1C=C2CC(CC2=CC1)N1C(C2=CC=CC=C2C1=O)=O | C18H15NO3
reactant | boron tribromide CH2Cl2 | 340 mL | B(Br)(Br)Br.C(Cl)Cl
solvent | CH2Cl2 | 350 mL | C(Cl)Cl | CH2Cl2
product | 2-(5-hydroxyindan-2-yl)isoindole-1,3-dione | 14.8 g, 79% | OC=1C=C2CC(CC2=CC1)N1C(C2=CC=CC=C2C1=O)=O | C17H13NO3
